data/oMe_Silver.jsonl
{"reaction_id": "NR-107_1-c1ccc(N(C)C)cc1_2-C(=O)OC_3-c1ccccc1_4-CCCC_5-CC_6-C(C)(C)CC_7-C","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(c1ccc(N(C)C)cc1)(C(=O)OC)C(c1ccccc1)(CCCC)[N+](CC)(C(C)(C)CC)C","[OH-]"],"products_smiles": ["C(=C(c1ccccc1)CCCC)(c1ccc(N(C)C)cc1)C(=O)OC"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(c1ccccc1)CCCC)(c1ccc(N(C)C)cc1)C(=O)OC","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
{"reaction_id": "NR-101_1-c3ccc(OC)cc3_2-CCCCC","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(c3ccc(OC)cc3)(CCCCC)","BrBr"],"products_smiles": ["C(Br)CC(c3ccc(OC)cc3)(CCCCC)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(c3ccc(OC)cc3)(CCCCC)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(c3ccc(OC)cc3)(CCCCC)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(c3ccc(OC)cc3)(CCCCC)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
{"reaction_id": "NR-076_1-C(F)(F)F_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Ganem Oxidation","level": "medium","reactants_smiles": ["C(Br)(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","[O-][N+](CC)(CC)CC"],"products_smiles": ["C(=O)(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"conditions": "","mechnism_text_description": "The Ganem oxidation is the oxidation of benzylic or allylic halides to aldehydes or ketones. The mechanism begins with the nucleophilic oxygen of the trialkylamine N-oxide attacking the electrophilic carbon of the halide in an SN2 reaction, displacing the halide and forming an alkoxyammonium salt intermediate. In the second step, a base (like triethylamine, which can be a byproduct) abstracts an alpha-proton, leading to an E2 elimination. This forms a carbon-oxygen double bond and expels triethylamine as a leaving group, resulting in the final carbonyl compound.","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O[N+](CC)(CC)CC)(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "The oxygen of the N-oxide is strongly nucleophilic due to its negative polarization, enabling backside SN2 attack on the electrophilic halide carbon, which is further activated by resonance or inductive effects from C(F)(F)F/CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2, displacing the halide."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C(F)(F)F)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","step_weight": 0,"rationale": "A base abstracts the acidic α-proton adjacent to the positively charged oxygen, facilitating E2 elimination; the driving force is formation of the stable C=O bond and expulsion of neutral trialkylamine as a good leaving group."}],"description": "The Ganem oxidation converts benzylic or allylic halides into carbonyl compounds via nucleophilic substitution by an N-oxide, followed by base-induced elimination. The reaction leverages the electrophilicity of the halide carbon and the good leaving group ability of the trialkylamine, under mild, non-metal conditions."}
